US05668161
Acetic anhydride (60 mL), 4-(methylthio)benzaldehyde (7.05 g, 44 mmol), 2-fluorophenylacetic acid (7.79 g, 50.5 mmol), and triethylamine (5.50 g, 54.5 mmol) were placed in a 250 mL round bottom flask and heated to reflux for 1.75 hours. The reaction was cooled to 90° C., and water (100 mL) was added cautiously through an addition funnel. This caused the solution to reflux vigorously and the temperature to rise to 135° C. A yellow precipitate formed and after cooling to room temperature the solid was collected by filtration, washed with water, and recrystallized from toluene to provide 2-(2-fluorophenyl)-3-(4-methylthiophenyl)propenoic acid as yellow needles (7.98 g, 63%): mp 151.5°-156.0° C. 1H NMR (CDCl3) 300 MHz 8.01 (s,1H), 7.41-7.00 (m, 8H), 2.43 (s, 3H). 19F NMR (CDCl3) -113.40 (m). Mass spectrum M+H+ =289.

reactant | Acetic anhydride | 60 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-(methylthio)benzaldehyde | 44 mmol, 7.05 g | CSC1=CC=C(C=O)C=C1 | C8H8OS
reactant | 2-fluorophenylacetic acid | 50.5 mmol, 7.79 g | FC1=C(C=CC=C1)CC(=O)O | C8H7FO2
reactant | triethylamine | 54.5 mmol, 5.50 g | C(C)N(CC)CC | C6H15N
solvent | water | 100 mL | O | H2O
product | 2-(2-fluorophenyl)-3-(4-methylthiophenyl)propenoic acid | 7.98 g, 63% | FC1=C(C=CC=C1)C(C(=O)O)=CC1=CC=C(C=C1)SC | C16H13FO2S
